US06649643B1
Production of 6-Bromo-2-(tert-butyldimethylsilyloxy)-N-methyl-1-naphthamide
A mixture of 6-bromo-2-hydroxy-N-methyl-1-naphthamide (2.50 g), tert-butyldimethylsilyl chloride (1.61 g), and imidazole (912 mg) in DMP (30 mL) was stirred for 2 h at room temperature. After dilution with water, the resulting mixture was extracted with AcOEt. The organic layer was washed with water and brine followed by concentrating in vacuo. The residue was passed through silica gel plug (hexane:AcOEt=1:1). The elute was concentrated, and the residue was washed with hexane to give the titled compound (3.33 g) as colorless needles.

reactant | 6-bromo-2-hydroxy-N-methyl-1-naphthamide | 2.50 g | BrC=1C=C2C=CC(=C(C2=CC1)C(=O)NC)O | C12H10BrNO2
reactant | tert-butyldimethylsilyl chloride | 1.61 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 912 mg | N1C=NC=C1 | C3H4N2
product | 6-Bromo-2-(tert-butyldimethylsilyloxy)-N-methyl-1-naphthamide | 3.33 g | BrC=1C=C2C=CC(=C(C2=CC1)C(=O)NC)O[Si](C)(C)C(C)(C)C | C18H24BrNO2Si
